US07361677B2
4-[(3-Fluoro-4-hydroxy-benzyl)-[1,2,4]triazol-4-yl-amino]-benzonitrile (CAB03020, STX696)
4-[(4-Benzyloxy-3-fluoro-benzyl)-[1,2,4]triazol-4-yl-amino]-benzonitrile (CAB033019, 2.83 g, 7.09 mmol) was dissolved in a mixture of ethanol (50 mL), THF (50 mL) and ethyl acetate (50 mL) by heating and palladium on charcoal (150 mg, 5% Pd) was added. The mixture was stirred under hydrogen-atmosphere (balloon) for 18 h, filtered through a 3 cm layer of celite and concentrated under reduced pressure. The residue was suspended in 2-propanol (30 mL), the mixture was heated to reflux for 5 minutes. After cooling room temperature the white precipitate was filtered off and dried under high vacuum. Yield: 2.13 g (97%). 1H-NMR (400 MHz, d6-DMSO) δ=4.93 (s, 2H), 6.75 (d, J=9.0 Hz, 2H), 6.82-6.89 (m, 2H), 7.07-7.12 (m, 1H), 7.76 (d, J=9.0 Hz, 2H), 8.77 (s, 2H), 9.95 (s, 1H, —OH).

reactant | 4-[(4-Benzyloxy-3-fluoro-benzyl)-[1,2,4]triazol-4-yl-amino]-benzonitrile | 7.09 mmol, 2.83 g | C(C1=CC=CC=C1)OC1=C(C=C(CN(C2=CC=C(C#N)C=C2)N2C=NN=C2)C=C1)F | C23H18FN5O
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on charcoal | 150 mg | [Pd] | Pd
product | 4-[(3-Fluoro-4-hydroxy-benzyl)-[1,2,4]triazol-4-yl-amino]-benzonitrile | FC=1C=C(CN(C2=CC=C(C#N)C=C2)N2C=NN=C2)C=CC1O | C16H12FN5O
